### PR TITLE
[Merged by Bors] - chore(RingTheory): various api additions

### PR DESCRIPTION
**Pull request by chrisflav**
This PR adds

- `AlgEquiv.quotientBot` and minimal API.
- `AdjoinRoot.free_of_monic`, `AdjoinRoot.finite_of_monic` and `Polynomial` versions.
- `Module.Free.trans`

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 1]
```diff
@@ -470,6 +470,22 @@ def powerBasis' (hg : g.Monic) : PowerBasis R (AdjoinRoot g) where
...
+
+/-- An unwrapped version of `AdjoinRoot.free_of_monic` for better discoverability. -/
+lemma _root_.Polynomial.free_quotient_of_monic (hg : g.Monic) :
+    Module.Free R (R[X] ⧸ Ideal.span {g}) :=
+  free_of_monic hg
+
+/-- An unwrapped version of `AdjoinRoot.finite_of_monic` for better discoverability. -/
+lemma _root_.Polynomial.finite_quotient_of_monic (hg : g.Monic) :
+    Module.Free R (R[X] ⧸ Ideal.span {g}) :=
+  free_of_monic hg
```
Comment (erdOne) [inline Mathlib/RingTheory/AdjoinRoot.lean:487]:
```suggestion
lemma _root_.Polynomial.finite_quotient_of_monic (hg : g.Monic) :
    Module.Finite R (R[X] ⧸ Ideal.span {g}) :=
  finite_of_monic hg
```

File: Mathlib/RingTheory/Ideal/Quotient/Operations.lean [hunk 2]
```diff
@@ -676,6 +670,47 @@ end QuotientAlgebra
...
+  rfl
+
+variable (R S) in
+/-- `RingEquiv.quotientBot` as an algebra isomorphism. -/
+def AlgEquiv.quotientBot [CommSemiring R] [CommRing S] [Algebra R S] :
+    (S ⧸ (⊥ : Ideal S)) ≃ₐ[R] S where
+  __ := RingEquiv.quotientBot S
+  commutes' x := by
+    rw [← Ideal.Quotient.mk_algebraMap]
+    simp [-Ideal.Quotient.mk_algebraMap]
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/Operations.lean:700]:
```suggestion
  commutes' x := by simp [← Ideal.Quotient.mk_algebraMap]
```
Maybe? (not tested)

File: Mathlib/RingTheory/Ideal/Quotient/Operations.lean [hunk 3]
```diff
@@ -676,6 +670,47 @@ end QuotientAlgebra
...
+  rfl
+
+@[simp]
+lemma RingEquiv.quotientBot_symm_mk [Ring R] (r : R) :
+    (RingEquiv.quotientBot R).symm r = r :=
+  rfl
+
+variable (R S) in
+/-- `RingEquiv.quotientBot` as an algebra isomorphism. -/
+def AlgEquiv.quotientBot [CommSemiring R] [CommRing S] [Algebra R S] :
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Quotient/Operations.lean:695]:
```suggestion
def AlgEquiv.quotientBot [CommSemiring R] [Ring S] [Algebra R S] :
```
Maybe? (not tested)

**Comment by erdOne** [comment]
Thanks!
maintainer merge

File: Mathlib/RingTheory/AdjoinRoot.lean [hunk 4]
```diff
@@ -470,6 +470,22 @@ def powerBasis' (hg : g.Monic) : PowerBasis R (AdjoinRoot g) where
       have := Finset.mem_univ i
       contradiction
 
+lemma free_of_monic (hg : g.Monic) : Module.Free R (AdjoinRoot g) :=
```
Comment (riccardobrasca) [inline Mathlib/RingTheory/AdjoinRoot.lean:473]: What about a name that allows dot notation?

**Review by riccardobrasca — APPROVED** [review]
Thanks!

bors d+

**Comment by chrisflav** [comment]
Thanks for the reviews!

bors r+
